US20010027196A1
To a stirred solution of 25.0 g (198 mmol) 5-methyl-2-furoic acid in 160 ml THF and 100 ml DMF were added 110 g (793 mmol) potassium carbonate and 49 ml (787 mmol) methyl iodide and stirring continued for 18 hours at room temperature. The reaction mixture was then filtered and the filtrate concentrated in vacuo. The residue was then partitioned between ether and water, the phases separated, and the aqueous phase further extracted with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Chromatography (hexane then ethyl acetate/hexane 1/9) afforded 27.8 g (100%) methyl 5-methyl-2-furoate as a yellow oil. EI-MS m/e (%): 140 (M+, 44), 109 ([M—OMe]+, 100).

reactant | 5-methyl-2-furoic acid | 198 mmol, 25.0 g | CC1=CC=C(O1)C(=O)O | C6H6O3
reactant | potassium carbonate | 793 mmol, 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 787 mmol, 49 ml | CI | CH3I
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 5-methyl-2-furoate | 27.8 g, 100% | CC1=CC=C(O1)C(=O)OC | C7H8O3
